US07402684B2
3-[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-propionic acid HCl salt:
3-[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-propionic acid methyl ester (32.6 mg, 0.092 mmol) was added to a solution of HCl (conc.) in Dioxane (1:3, 2 mL). The reaction was run a 60° C. for 4 h. The Mixture was concentrated to dryness and dried in a vacuum over at 50° C. The residue was triturated with diethyl ether and dried to provide the title product (19 mg, 0.056 mmol, 60% yield); LCMS: m/z 339.44 (free amine). found 340 (M+1). 1H NMR (400 MHz, DMSO-d6) δ 1.77 1.837 (m, 1H), 1.93-1.96 (m, 1H), 1.99-2.04 (m, 1H), 2.20-2.25 (m, 1H), 2.80-2.85 (m, 1H), 3.16-3.18 (m, 1H), 3.31-3.41 (m, 1H), 3.56-3.88 (m, 6H), 4.25-4.32 (m, 2H), 6.90-6.92 (d, J=8.4, 2H), 7.16-7.21 (m, 5H), 7.26-7.29 (m, 2H), 10.34 (s, 1H).

reactant | 3-[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-propionic acid methyl ester | 0.092 mmol, 32.6 mg | COC(CCN1[C@@H](CCC1)COC1=CC=C(C=C1)CC1=CC=CC=C1)=O | C22H27NO3
reactant | HCl | Cl | ClH
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-[(S)-2-(4-Benzyl-phenoxymethyl)-pyrrolidin-1-yl]-propionic acid HCl salt | 0.056 mmol, 19 mg, 60% yield | Cl.C(C1=CC=CC=C1)C1=CC=C(OC[C@H]2N(CCC2)CCC(=O)O)C=C1 | InChI=1S/C21H25NO3.ClH/c23-21(24)12-14-22-13-4-7-19(22)16-25-20-10-8-18(9-11-20)15-17-5-2-1-3-6-17;/h1-3,5-6,8-11,19H,4,7,12-16H2,(H,23,24);1H/t19-;/m0./s1
